US05580904
N-(2-hydroxyethyl)-2-methylthiazolium bromide
To a solution of 2-methylthiazoline (10.1 g) in dioxane (20 ml) was added 2-bromoethanol (13.8 g), and the mixture was heated under reflux for about 6 hours. After cooling the reaction, acetone (30 ml) and ether (130 ml) were added with stirring, and the resulting mixture was left standing. After the pale brown supernatant was discarded, ether (150 ml) was further added to the amorphous precipitate thus obtained. The mixture was stirred and left standing. Supernatant obtained was discarded, and the viscous precipitates obtained was left standing at an ambient temperature under reduced pressure to give the title compound as the yellow amorphous residue.

reactant | 2-methylthiazoline | 10.1 g | CC=1SCCN1 | C4H7NS
reactant | 2-bromoethanol | 13.8 g | BrCCO | C2H5BrO
reactant | acetone | 30 ml | CC(=O)C | C3H6O
reactant | ether | 130 ml | CCOCC | C4H10O
reactant | ether | 150 ml | CCOCC | C4H10O
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | N-(2-hydroxyethyl)-2-methylthiazolium bromide | [Br-].OCC[N+]1=C(SC=C1)C | InChI=1S/C6H10NOS.BrH/c1-6-7(2-4-8)3-5-9-6;/h3,5,8H,2,4H2,1H3;1H/q+1;/p-1
